US07687622B2
Preparation of 1-[4-[2-(2-Hydroxyethoxy)ethyl]-1-piperazinyl]dibenzo[b,f][1,4]thiazepine
A 2 liter round bottom flask equipped with stirring rod, thermo pocket, reflux condenser and nitrogen inlet was charged with 50 gm (0.2 moles) of 11-chlorodibenzo[b,f][1,4]-thiazepine and 500 cc n-butanol and the mixture was stirred for 15 min. at room temperature. The resulting solution was combined with 39 gm (0.22 mole) of 1-(2-hydroxyethoxy)ethylpiperazine, 56.2 gm (0.40 mole) of potassium carbonate and 16.89 gm (0.10 mole) of potassium iodide. The reaction mixture was heated at gentle reflux for 12 hrs and a sample of the reaction mixture was analyzed by HPLC. The analysis revealed that starting material remains less than 1%. The reaction mixture was cooled to room temperature and treated with 1000 cc 1N hydrochloric acid solution to get a pH in between 1 to 2. The layers (aqueous and nonaqueous reaction solvent) were separated and the aqueous layer was extracted with 500 cc toluene and pH was adjusted between 8 to 9 by addition of sodium carbonate. The layers were separated and aqueous layer was again extracted with 500 cc toluene. The organic layers (n-butanol and toluene) were combined and washed with 2×500 cc of water. The solvent was distilled under vacuum at 70 to 80° C. to afford 47.5 gm oil. HPLC area %: 98.9

reactant | 11-chlorodibenzo[b,f][1,4]-thiazepine | 0.2 moles, 50 gm | ClC1=NC2=C(SC3=C1C=CC=C3)C=CC=C2 | C13H8ClNS
reactant | 1-(2-hydroxyethoxy)ethylpiperazine | 0.22 mole, 39 gm | OCCOC(C)N1CCNCC1 | C8H18N2O2
reactant | potassium carbonate | 0.40 mole, 56.2 gm | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.10 mole, 16.89 gm | [I-].[K+]
reactant | hydrochloric acid | 1N, 1000 cc | Cl | ClH
reactant | n-butanol | 500 cc | C(CCC)O | C4H10O
product | 1-[4-[2-(2-Hydroxyethoxy)ethyl]-1-piperazinyl]dibenzo[b,f][1,4]thiazepine | 47.5 gm | OCCOCCN1CCN(CC1)C1=CC=CC2=C1C=NC1=C(S2)C=CC=C1 | C21H25N3O2S
